US08871782B2
Di-tert-butyl dicarbonate (19.05 g, 0.087 mol) in dichloromethane (218 mL) was added dropwise over 2 hours to a solution of piperazine (15.0 g, 0.174 mol) in dichloromethane (436 mL). The reaction mixture was allowed to stir for 16 hours, then the solution was concentrated under reduced pressure to yield a solid that was treated with water (500 mL). The mixture was stirred vigorously and a white solid was isolated by filtration and washed with water. The solid was discarded. The filtrate was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to yield 12.7 g of tert-butyl piperazine-1-carboxylate as clear yellow crystals.

reactant | Di-tert-butyl dicarbonate | 0.087 mol, 19.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperazine | 0.174 mol, 15.0 g | N1CCNCC1 | C4H10N2
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 218 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 436 mL | ClCCl | CH2Cl2
product | tert-butyl piperazine-1-carboxylate | 12.7 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
